US07002022B2
(ii) N-(4-Methylphenyl)-2-{[(1,1-dimethylethoxy)carbonyl]amino}-6-methylbenzamide
Firstly N-methylmorpholine (6.15 mL, 5.64 g, 55.8 mmol) and then O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (10.15 g, 26.8 mmol) are added to a stirred mixture of 2-{[(1,1-dimethylethoxy)carbonyl]amino}-6-methylbenzoic acid (5.60 g, 22.3 mmol) and p-toluidine 4.78 g, 44.6 mmol) in dry dimethylformamide (110 mL) under an argon atmosphere, and stirred at 18° C. for 16 hours. The solvent is evaporated off under reduced pressure to give a residue which is treated with aqueous sodium hydrogen carbonate solution (200 mL of 10%) and extracted with dichloromethane (3×100 mL). The combined extracts are washed with aqueous citric acid solution (100 mL of 10%), dried (Na2SO4), filtered and the solvent is evaporated off under reduced pressure to yield the crude product which is purified by column chromatography on silica gel, eluent 20% ethyl acetate in hexane, and recrystallised from tert-butyl-methyl ether-hexane to give the title compound as a colourless crystalline solid, m.p. 250° C.

reactant | N-methylmorpholine | 55.8 mmol, 6.15 mL, 5.64 g | CN1CCOCC1 | C5H11NO
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 26.8 mmol, 10.15 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 2-{[(1,1-dimethylethoxy)carbonyl]amino}-6-methylbenzoic acid | 22.3 mmol, 5.60 g | CC(C)(OC(=O)NC1=C(C(=O)O)C(=CC=C1)C)C | C13H17NO4
reactant | p-toluidine | 44.6 mmol, 4.78 g | NC1=CC=C(C=C1)C | C7H9N
reactant | sodium hydrogen carbonate | 200 mL | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 110 mL | CN(C=O)C | C3H7NO
product | N-(4-Methylphenyl)-2-{[(1,1-dimethylethoxy)carbonyl]amino}-6-methylbenzamide | CC1=CC=C(C=C1)NC(C1=C(C=CC=C1C)NC(=O)OC(C)(C)C)=O | C20H24N2O3
